US04686227
A solution of sodium hydroxide (1.25 g) in water (5 ml) was added to a mixture of 7-chloro-3-ethoxycarbonylmethyl-2-methylimidazo[2,1-a]isoquinoline (4.75 g) and methanol (48 ml) and the mixture was refluxed for 1.5 hours. After being cooled, the mixture was evaporated in vacuo and 1N hydrochloric acid (31.4 ml) was added to the residue under ice-cooling. The resulting precipitate was collected by filtration, washed with water, dried in a desiccator and washed with a mixture of ethanol and methanol to give 3-carboxymethyl-7-chloro-2-methylimidazo[2,1-a]isoquinoline (3.2 g).

reactant | sodium hydroxide | 1.25 g | [OH-].[Na+]
reactant | 7-chloro-3-ethoxycarbonylmethyl-2-methylimidazo[2,1-a]isoquinoline | 4.75 g | ClC1=C2C=CN3C(C2=CC=C1)=NC(=C3CC(=O)OCC)C | C16H15ClN2O2
reactant | methanol | 48 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | 3-carboxymethyl-7-chloro-2-methylimidazo[2,1-a]isoquinoline | 3.2 g | C(=O)(O)CC1=C(N=C2N1C=CC1=C(C=CC=C21)Cl)C | C14H11ClN2O2
